US08633237B2
c) (S)-1,1,1-trifluoro-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide
To a solution of (S)-methyl 3-(trifluoromethyl)-5-((2-(trifluoromethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)benzoate (0.135 mmol, 65 mg) in THF (1.5 mL) at 0° C. was added Lithium aluminium hydride (0.405 mmol, 15.37 mg). The whole was stirred at 0° C. for 4 h before the reaction mixture was quenched by the addition of 2N HCl & diluted with DCM. The organics were separated/dried using a hydrophobic frit before being concentrated to dryness and the residue purified by preparative HPLC to give a clear film (29 mg, 47.4%). MS (ESI): m/z [M+NH4]+ 471.5

reactant | (S)-methyl 3-(trifluoromethyl)-5-((2-(trifluoromethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)benzoate | 0.135 mmol, 65 mg | FC(C=1C=C(C(=O)OC)C=C(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(F)(F)F)(F)F | C20H17F6NO4S
reactant | Lithium aluminium hydride | 0.405 mmol, 15.37 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (S)-1,1,1-trifluoro-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide | FC(S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)CC1=CC(=CC(=C1)C(F)(F)F)CO)(F)F | C19H17F6NO3S
